US08309580B2
(2) 4-[(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methyl)amino]benzoic acid
To a mixture of 3-[chloro(cyclohexyl)methyl]-2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophene (1.00 g) synthesized above, methyl 4-aminobenzoate (780 mg), sodium iodide (1.55 g) and N,N-dimethylacetamide (10 mL) was added sodium carbonate (547 mg), and the mixture was stirred under an argon atmosphere at 100° C. overnight. Saturated aqueous ammonium chloride solution was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a dark-brown oil. To a mixture of the obtained oil, tetrahydrofuran (10 mL) and ethanol (10 mL) was added 1N aqueous sodium hydroxide solution (10 mL), and the mixture was stirred at 60° C. for 1 hr, and stirred with heating under reflux for 30 min. 1N Hydrochloric acid (10 mL) was added to the reaction mixture, the organic solvent was evaporated under reduced pressure, and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=3:7, volume ratio) to give a brown oil. The obtained oil was dissolved in ethyl acetate, washed with 1N hydrochloric acid and brine, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (369 mg, 29%) as a pale-brown solid.

reactant | 3-[chloro(cyclohexyl)methyl]-2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophene | 1.00 g | ClC(C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC)C1CCCCC1 | C20H22ClF3S
reactant | methyl 4-aminobenzoate | 780 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | sodium iodide | 1.55 g | [I-].[Na+]
reactant | sodium carbonate | 547 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 4-[(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methyl)amino]benzoic acid | 369 mg, 29% | C1(CCCCC1)C(C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC)NC1=CC=C(C(=O)O)C=C1 | C27H28F3NO2S
